US03971797
A solution of 30 g. of 3-hydroxymethylpyridine-N-oxide in 200 ml. of benzene and 18.4 g. of thionyl chloride was refluxed 2 hours, cooled and filtered to give 3-mercaptomethylpyridine-N-oxide.

reactant | 3-hydroxymethylpyridine-N-oxide | OCC=1C=[N+](C=CC1)[O-] | C6H7NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-mercaptomethylpyridine-N-oxide | SCC=1C=[N+](C=CC1)[O-] | C6H7NOS
